US07112595B2
A mixture of methyl 3-cyano-5-hydroxybenzoate (302 mg, 1.7 mmol), potassium carbonate (471 mg, 3.4 mmol) and 2-chloroethyl methyl ether (309 μL mg, 3.4 mmol) in N,N-dimethylformamide (4 mL) was heated in a sealed vial at 140° C. for 15 minutes. The reaction was cooled, diluted with ethyl acetate, washed with water and saturated brine, filtered and concentrated. Filtration through silica gel using dichloromethane afforded 375 mg (93%) of methyl 3-cyano-5-(2-methoxyethoxy)benzoate.

reactant | methyl 3-cyano-5-hydroxybenzoate | 1.7 mmol, 302 mg | C(#N)C=1C=C(C(=O)OC)C=C(C1)O | C9H7NO3
reactant | potassium carbonate | 3.4 mmol, 471 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloroethyl methyl ether | 3.4 mmol, 309 μL | COCCCl | C3H7ClO
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 3-cyano-5-(2-methoxyethoxy)benzoate | 375 mg, 93% | C(#N)C=1C=C(C(=O)OC)C=C(C1)OCCOC | C12H13NO4
